US07030115B2
4-chloro-2-methoxyphenyl trifluoroacetate
A solution of 4-chloro-2-methoxyphenol (10.0 g, 63.0 mmol) in pyridine (30 mL) was cooled to 0° C., treated with trifluoromethanesulfonic anhydride (17.8 g, 63.0 mmol), stirred 30 minutes, warmed to room temperature, and stirred for 24 hours. The reaction mixture was poured into water and extracted with ether (3×150 mL). The combined extracts were washed sequentially with water, 10% HCl (2×), water, and brine; dried (Na2SO4), filtered, and concentrated to provide 19.0 g of the desired product. MS(CI) m/e 290.1 (M)+.

reactant | 4-chloro-2-methoxyphenol | 63.0 mmol, 10.0 g | ClC1=CC(=C(C=C1)O)OC | C7H7ClO2
reactant | trifluoromethanesulfonic anhydride | 63.0 mmol, 17.8 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | O | H2O
reactant | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | 4-chloro-2-methoxyphenyl trifluoroacetate | 19.0 g | FC(C(=O)OC1=C(C=C(C=C1)Cl)OC)(F)F | C9H6ClF3O3
